US04447422
(b) 2-Furfurylamino-4-hydroxypyrimidine-5-carboxylic acid
2-Furfurylamino-5-ethoxycarbonyl-4-hydroxypyrimidine (526 mg, 2 mmol) was hydrolysed in water (10 ml) with NaOH (5 mmol, 200 mg) by refluxing for 3 h. Cooling and acidification to pH 2 yielded the named product as a precipitate. (435 mg, 93% yield).

reactant | 2-Furfurylamino-5-ethoxycarbonyl-4-hydroxypyrimidine | 2 mmol, 526 mg | C(C1=CC=CO1)NC1=NC=C(C(=N1)O)C(=O)OCC | C12H13N3O4
reactant | NaOH | 5 mmol, 200 mg | [OH-].[Na+]
solvent | water | 10 ml | O | H2O
product | 2-Furfurylamino-4-hydroxypyrimidine-5-carboxylic acid | 93% yield | C(C1=CC=CO1)NC1=NC=C(C(=N1)O)C(=O)O | C10H9N3O4
